US06265411B1
Using a procedure analogous to that described in Example 26, oxindole (0.32 g, 2.4 mmol) was added to sodium hydride (110 mg, 2.8 mmol) in DMF (15 ml) and the solution was treated with 4-chloro-6-morpholinoquinazoline (200 mg, 8 mmol), (EP 0566226), in DMF (8 ml). The product so obtained was treated with ethereal hydrogen chloride to give 4-(oxindol-3-yl)-6-morpholinoquinazoline hydrochloride (120 mg, 43%).

reactant | oxindole | 2.4 mmol, 0.32 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | sodium hydride | 2.8 mmol, 110 mg | [H-].[Na+]
reactant | 4-chloro-6-morpholinoquinazoline | 8 mmol, 200 mg | ClC1=NC=NC2=CC=C(C=C12)N1CCOCC1 | C12H12ClN3O
reactant | hydrogen chloride | Cl | ClH
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 4-(oxindol-3-yl)-6-morpholinoquinazoline hydrochloride | 120 mg, 43% | Cl.N1C(C(C2=CC=CC=C12)C1=NC=NC2=CC=C(C=C12)N1CCOCC1)=O | InChI=1S/C20H18N4O2.ClH/c25-20-18(14-3-1-2-4-17(14)23-20)19-15-11-13(24-7-9-26-10-8-24)5-6-16(15)21-12-22-19;/h1-6,11-12,18H,7-10H2,(H,23,25);1H
